US04111990
10 Grams (4.4 millimoles) of 1-bromotricyclo [4.3.1.12,5 ] undecane are dissolved in acetone-water (145 ml - 95 ml) and the solution is refluxed under stirring for one hour. After allowing the solution to cool, the solution is extracted with petroleum ether and the extract is dried with anhydrous magnesium sulfate. The solvent is distilled out. The residue is purified by sublimation to obtain 0.69 g (yield 95%) of tricyclo [4.3.1.12,5 ] undecane-1-ol as white crystals.

reactant | 1-bromotricyclo [4.3.1.12,5 ] undecane | 4.4 millimoles | BrC12C3CCC(C(CCC1)C2)C3 | C11H17Br
reactant | acetone water | 145 ml - 95 ml | CC(=O)C.O
product | tricyclo [4.3.1.12,5 ] undecane-1-ol | 0.69 g, yield 95% | C12(C3CCC(C(CCC1)C2)C3)O | C11H18O
